US06586421B2
(5aS*,10bS*)-10-(4-Chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole Dihydrochloride
10-(4-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride (140 mg) was dissolved in TFA (3 ml), cool to 0° C. and sodium cyanoborohydride was added portionwise (150 mg). The reaction mixture stirred two hours, was quenched with 2N NaOH, extracted with EtOAc, dried over MgSO4, filtered and concentrated. The product was dissolved in EtOAc and 1N HCl in Et2O was added. The solvent was evaporated and solid recrystallized from EtOAc/MeOH to provide the title compound: 1H NMR (DMSO-d6) δ 1.31, 1.66, 2.21, 2.7, 2.91, 3.03, 3.27, 4.1-4.4, 6.88, 7.25, 7.52. HRMS (FAB) calcd for C18H21ClN12 (MH+) 299.1315, found 299.1321.

reactant | 10-(4-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | 140 mg | Cl.ClC1=CC=C(C=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (5aS*,10bS*)-10-(4-Chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole Dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | InChI=1S/C18H19ClN2.2ClH/c19-13-6-4-12(5-7-13)14-2-1-3-17-18(14)15-8-10-20-11-9-16(15)21-17;;/h1-7,15-16,20-21H,8-11H2;2*1H/t15-,16+;;/m1../s1
